US05489570
2,4-Dichloro-3-methoxycarbonylbenzoic acid (32.37 g) and thionyl chloride (100 ml) was heated under reflux with stirring for 3 hours. The mixture was cooled and evaporated in vacuo, then re-evaporated after addition of toluene to give 2,4-dichloro-3-methoxycarbonylbenzoyl chloride (34.76 g) as a dark brown oil. This was used in the next stage without purification.

reactant | 2,4-Dichloro-3-methoxycarbonylbenzoic acid | 32.37 g | ClC1=C(C(=O)O)C=CC(=C1C(=O)OC)Cl | C9H6Cl2O4
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 2,4-dichloro-3-methoxycarbonylbenzoyl chloride | 34.76 g | ClC1=C(C(=O)Cl)C=CC(=C1C(=O)OC)Cl | C9H5Cl3O3
